US08198448B2
A resealable pressurized vial was charged with 2-(3-hydroxy-5-oxo-1,6-naphthyridin-6(5H)-yl)propanoic acid hydrobromide (0.54 g, 2 mmol), cesium carbonate (2 g, 7 mmol), 2,2,2-trifluoroethyl trifluoromethanesulfonate (2 g, 7 mmol), and N,N-dimethylformamide (6 mL, 0.3M). The vessel was sealed and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was diluted with EtOAc and washed with water. The organic layer was collected, dried over sodium sulfate, and concentrated under reduced pressure to afford brown oil. This was purified via MPLC (10-50% EtOAC/Hexanes) to afford tan solid of bis alkylated material. This was suspended and refluxed in 5 mL of 6N HCl for 2 hours. Reaction mixture concentrated and dried under reduced pressure to afford 2-(5-oxo-3-(2,2,2-trifluoroethoxy)-1,6-naphthyridin-6(5H)-yl)propanoic acid hydrochloride (0.3 g, 50% yield). This was concentrated under reduced pressure to dryness to afford 2-(5-oxo-3-(2,2,2-trifluoroethoxy)-1,6-naphthyridin-6(5H)-yl)propanoic acid hydrochloride (0.3 g, 50% yield) as yellow solid. Free base material MS m/z=317.0 [M+1]+. Calc'd for C13H12ClF3N2O4: 352.7.

reactant | 2-(3-hydroxy-5-oxo-1,6-naphthyridin-6(5H)-yl)propanoic acid hydrobromide | 2 mmol, 0.54 g | Br.OC=1C=NC=2C=CN(C(C2C1)=O)C(C(=O)O)C
reactant | cesium carbonate | 7 mmol, 2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 7 mmol, 2 g | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | N,N-dimethylformamide | 0.3M, 6 mL | CN(C=O)C | C3H7NO
reactant | HCl | 6N, 5 mL | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-oxo-3-(2,2,2-trifluoroethoxy)-1,6-naphthyridin-6(5H)-yl)propanoic acid hydrochloride | 0.3 g, 50% yield | Cl.O=C1C=2C=C(C=NC2C=CN1C(C(=O)O)C)OCC(F)(F)F | InChI=1S/C13H11F3N2O4.ClH/c1-7(12(20)21)18-3-2-10-9(11(18)19)4-8(5-17-10)22-6-13(14,15)16;/h2-5,7H,6H2,1H3,(H,20,21);1H
